US05885986
A stream of hydrogen sulphide was conducted for 1/2 hr. through a solution of 4.4 g (0.0172 mol) of 8-fluoro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carbonitrile in 100 ml of pyridine and 1 ml of triethylamine. The dark green solution was left to stand for 64 hrs., then de-gassed with a stream of nitrogen and subsequently completely freed from the solvents. The residue was partitioned between dichloromethane/tetrahydrofuran and water, extracted, concentrated, stirred vigorously in ether and filtered off under suction. There were obtained 4.55 g (91%) of 8-fluoro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-thiocarboxamide as yellow crystals.

reactant | hydrogen sulphide | S | H2S
reactant | 8-fluoro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carbonitrile | 0.0172 mol, 4.4 g | FC=1C=CC2=C(C(N(CC=3N2C=NC3C#N)C)=O)C1 | C13H9FN4O
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
product | 8-fluoro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-thiocarboxamide | 4.55 g, 91% | FC=1C=CC2=C(C(N(CC=3N2C=NC3C(N)=S)C)=O)C1 | C13H11FN4OS
